Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ultracet
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
___ Atrial Flutter ablation 

 
History of Present Illness:
___ year old male with possible CVA in ___, 
homelessness, alcohol use disorder, opioid use disorder, and 
atrial fibrillation/atrial flutter presents with recurrent 
palpitations.

Please see the numerous other admission notes for this patient 
from the past week. In short, this is a ___ year old patient with 
atrial flutter who has been admitted multiple times with 
symptomatic RVR. He has been planned for ablation procedure at 
least twice and left AMA on the day of the procedure both times
before it could be performed. He most recently left AMA on the 
morning of this admission after being told that his procedure 
may not be able to be done until the following day. 

He represents with similar symptoms of palpitations. ED 
evaluation notable for HR 140s requiring 20mg IV diltiazem with 
good results. He remained hemodynamically stable.

After discussing the case with ED providers, it was felt most 
appropriate to admit this patient again with the hope that a 
definitive procedure could be expedited and hopefully prevent 
recurrent admissions.

Upon arrival to the floor, patient was complaining of rib pain 
from recent rib fracture and requesting oxycodone. He stated 
that his palpitations had resolved at that point. He adamantly 
denies leaving AMA that morning. When asked if he is taking his 
medications, he stated that he had been. When asked how 
frequently he takes his medications, he states "every day." When 
asked if he takes any medications twice per day, he cannot 
remember. 

 
Past Medical History:
CVA in ___
Homelessness
Etoh use disorder
Opioid use disorder with recent overdose
Atrial fibrillation/flutter
Hypertension
Hepatitis C 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
During admission:
VS: T 97.8  BP 123/85  HR 74  RR 20  SpO2 97% RA
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

Discharge: Pt left AMA prior to being able to be examined by 
CNP. He was seen by EP fellow for FO8 suture removal. 
 
Pertinent Results:
TEE ___:
IMPRESSION: Mild spontaneous echo contrast but no thrombus in 
the left atrial appendage. No spontaneous echo contrast or 
thrombus in the body of the left atrium/right atrium/right 
atrial appendage. Mildly depressed left ventricular and low 
normal right ventricular systolic function in the setting of 
tachycardia. Mild mitral regurgitation. Mild to moderate 
tricuspid regurgitation. Simple atheroma descending thoracic 
aorta and aortic arch.

EP Brief Report ___:
Findings
rfv ___
typical atrail flutter
terminated after extensive ablation -with 8 mm and stsf adn sro 
sheath
bidirectional block
junctional rhythm
 
Brief Hospital Course:
___ with atrial flutter, symptomatic with palpitations due to 
medication non-compliance now admitted for the ___ time in 2.5 
weeks due to leaving AMA prior to planned ablations.  
 
 #  Atrial flutter s/p AFL ablation ___ 
    -Stop Metoprolol 
    -Continue Apixaban 5mg twice daily   
 
 #  Rib Fracture: Left rib fx s/p fall ___
    -Lidocaine patch
    -Ibuprofen 800mg q8h
    -Oxycodone 5mg q6h PRN 
    -Deep breathing exercises to prevent respiratory 
complications were again reviewed with patient 

 # Hypertension: stable
    -Continue Lisinopril 20mg daily 

 #  Nicotine Dependence: Pt is active smoker
    -Nicotine patch 21mg 

 #  ETOH use: unclear daily quantity at baseline 
    -While inpatient: CIWA scale q 2 hours with PRN Valium + 
Thiamine and Folate supplementation 

 #  Opioid use: +hx heroin use, unknown last use, however there 
is documentation of reported recent OD treated at ___. 
    -Initial measures for pain control including lidocaine patch 
and Tylenol/Ibuprofen not controlling pain per patient, he has 
reported allergy to Tramadol. Given that he does have documented 
rib fracture he is getting PRN Oxycodone 5mg q6h PRN while 
inpatient. PMP review indicates RX filled for #16 tabs Oxycodone 
on ___ following his visit to ___ ER, did not provide 
additional RX on discharge.   
  
 Psychiatry was consulted, see OMR note from ___, attempted to 
talk about buprenorphine, methadone and Vivitrol and patient was 
not interested and refused to discuss further, does not want 
access to higher levels of care or treatment. 

 Social Work also saw patient, see OMR note from ___, 
recommending OT evaluation to assist with disposition to see if 
he would qualify for SNF or long term care facility. 
 
 OT evaluation reflects that patient would be appropriate for 
discharge with OT services, however given homelessness and 
unable to return to shelter if not fully independent, may 
benefit from STR on discharge. 
 
 DISPO: ___ AM - Mr. ___ left AMA prior to making any 
arrangements for ___ to shelter or rehab. R groin suture removed 
by EP fellow. Went over access site care. Verbal and written dc 
instructions with updated list of medications. Reiterated risk 
for stroke post-ablation if he does not take Eliquis. Filled rx 
of Eliquis and Lisinopril were at the bedside. Pt requested 
refill of oxycodone. I explained that PMP review indicates RX 
filled for #16 tabs Oxycodone on ___ following his visit to 
___, will not plan to provide additional RX. CNP 
Attending Dr. ___ fellow Dr. ___ 
___ notified.   

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Naloxone Nasal Spray 4 mg IH ONCE MR1 
3. Lisinopril 20 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Lisinopril 20 mg PO DAILY  
3.  Naloxone Nasal Spray 4 mg IH ONCE MR1  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Flutter 
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Left AMA prior to assessment

 
Discharge Instructions:
 You left the hospital against medical advice before we could
make any further arrangements for your discharge.

 You were admitted to the hospital because you were feeling
palpitations due to your abnormal heart rhythm, atrial flutter. 

 You had an ablation procedure on ___ to attempt to put your
heart back into a normal rhythm. 

 Please follow all instructions regarding the care of the access
sites in the groin and activity restrictions to prevent bleeding
from these areas. 

 Stop taking Metoprolol. Continue all your other medications.

 It is extremely important that you continue to take your
Apixaban (Eliquis) twice daily without interruption to prevent
stroke. Skipping a dose or stopping the medication too early 
puts
you at a high risk for having another stroke. 

 Please continue all other medications as prescribed as listed
with these discharge instructions. 

 
Followup Instructions:
___